US04835175
1.00 g of 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolecarboxylic acid hydrochloride is combined with 4 ml of absolute dimethylformamide and 8 ml of absolute tetrahydrofuran, cooled to -10° C., and combined with 0.52 ml of N-ethylmorpholine and, 5 minutes later, with 0.28 ml of isobutyl chloroformate. The mixture is allowed to stand at -5° C. for 30 minutes, 376 mg of aminoacetic acid methyl ester hydrochloride, 0.39 ml of triethylamine--dissolved in 4 ml of absolute dimethylformamide and 6 ml of absolute tetrahydrofuran--are added thereto, the mixture is stirred for 16 hours at room temperature, concentrated, the residue is taken up in ethyl acetate/water, and the aqueous phase is acidified with 1N hydrochloric acid and once again extracted with ethyl acetate. The combined organic phases are dried, concentrated, and chromatographed over an aluminum oxide column (activity stage II; eluent: methanol/chloroform 1+4), thus obtaining 600 mg of N-[7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolylcarbonyl]aminoacetic acid methyl ester, mp 151.5°-152.5° C. (from methanol/diisopropyl ether).

reactant | 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolecarboxylic acid hydrochloride | 1.00 g | Cl.C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(NC12)C(=O)O)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O
reactant | N-ethylmorpholine | 0.52 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 0.28 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | aminoacetic acid methyl ester hydrochloride | 376 mg | Cl.COC(CN)=O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.39 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-[7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolylcarbonyl]aminoacetic acid methyl ester | 600 mg | COC(CNC(=O)C=1NC2=C(C=CC(=C2C1)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O)OCC1=CC=CC=C1)=O | C32H35N3O5
